US09085555B2
1-(3-chloro-phenyl)-cyclopropylamine
To a solution of 3-chlorobenzonitrile (1 g, 7.27 mmol) and titanium (IV) isopropoxide (2.34 mL, 8 mmol) in Et2O (35 mL) at −78° C. was added ethyl magnesium chloride in THF (5.71 mL, 15.99 mmol). The solution was stirred for 10 min at −78° C. then at 25° C. for 1 h. BF3.Et2O (1.82 mL, 14.54 mmol) was added and the solution was stirred for 1 h at 25° C. The reaction mixture was quenched with 1N HCl (22 mL) Et2O was added (100 mL). Then 10% aq. NaOH (70 mL) was added and the layers were separated. The organic layer was dried over Na2SO4, filtered and concentrated. The crude residue was purified by preparative HPLC (Waters SunFire C18-ODB, 5 μm, 19×50 mm, 5% CH3CN/H2O 2.5 min, 5-100% CH3CN/H2O in 10 min, CH3CN/H2O containing 0.1% HCOOH flow: 20 mL/min) to give after lyophilization of the purified fractions the title compound. MS (UPLC-MS): 170 [M+H]+, 168 [M−H]−; tR (HPLC conditions f): 1.22 min.

reactant | 3-chlorobenzonitrile | 7.27 mmol, 1 g | ClC=1C=C(C#N)C=CC1 | C7H4ClN
reactant | ethyl magnesium chloride | C(C)[Mg]Cl
reactant | THF | 15.99 mmol, 5.71 mL | C1CCOC1 | C4H8O
reactant | BF3.Et2O | 14.54 mmol, 1.82 mL | B(F)(F)F.CCOCC
solvent | Et2O | 35 mL | CCOCC | C4H10O
catalyst | titanium (IV) isopropoxide | 8 mmol, 2.34 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 1-(3-chloro-phenyl)-cyclopropylamine | ClC=1C=C(C=CC1)C1(CC1)N | C9H10ClN
